US08124647B2
To a solution of 1H-indole-6-carbonitrile (1.00 g, 7.04 mmol) in diethyl ether (50 mL) was added at rt 2-nitrobenzenesulfenyl chloride (1.34 g, 7.04 mmol) and the reaction mixture was stirred for 18 hrs. The mixture was concentrated and the crude product was purified using column chromatography (ethyl acetate/heptane 1:4→4:1) to give 3-(2-Nitro-phenylsulfanyl)-1H-indole-6-carbonitrile (1.62 g, 5.49 mmol, 78%).

reactant | 1H-indole-6-carbonitrile | 7.04 mmol, 1.00 g | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
reactant | 2-nitrobenzenesulfenyl chloride | 7.04 mmol, 1.34 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 3-(2-Nitro-phenylsulfanyl)-1H-indole-6-carbonitrile | 5.49 mmol, 1.62 g, 78% | [N+](=O)([O-])C1=C(C=CC=C1)SC1=CNC2=CC(=CC=C12)C#N | C15H9N3O2S
